US04649219
1,2-Bis(4-acrylamidobutoxy)cyclododecane;
1,2-(Bis(4-acrylamidobutoxy)-5,9-cyclododecadiene; 3-(4-Acrylamidobutoxy)-17-methyl-5-androsten-17-ol;

reactant | Bis(4-acrylamidobutoxy)-5,9-cyclododecadiene | C(C=C)(=O)NCCCCOC1(CCCC=CCCC=CCC1)OCCCCNC(C=C)=O | C26H42N2O4
reactant | 3-(4-Acrylamidobutoxy)-17-methyl-5-androsten-17-ol | C(C=C)(=O)NCCCCOC1CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)(O)C | C27H43NO3
product | 1,2-Bis(4-acrylamidobutoxy)cyclododecane | C(C=C)(=O)NCCCCOC1C(CCCCCCCCCC1)OCCCCNC(C=C)=O | C26H46N2O4
